US06743794B2
(4-Hydroxy-piperidin-1-yl)-acetic Acid Ethyl Ester
To a solution of bromoethylacetate, 3.3 mL (30.0 mmol) in 100 mL of tetrahydrofuran was added 4.2 g (30.0 mmol) of potassium carbonate and 3.0 mL (30.0 mmol) of 4-hydroxypiperidine. The reaction mixture stirred overnight at rt. and was concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroform and saturated aqueous NaHCO3. The mixture was washed with saturated NaHCO3, washed with brine, dried over Na2SO4, filtered and concentrated to dryness to give 4.65 g (83%) of the desired product as a tan oil. MS (ion spray) 188.0 (M+).

reactant | bromoethylacetate | BrCCOC(C)=O | C4H7BrO2
reactant | potassium carbonate | 30.0 mmol, 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxypiperidine | 30.0 mmol, 3.0 mL | OC1CCNCC1 | C5H11NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (4-Hydroxy-piperidin-1-yl)-acetic Acid Ethyl Ester | 4.65 g, 83% | C(C)OC(CN1CCC(CC1)O)=O | C9H17NO3
